US06921759B2
Step 2: Preparation of 2-(bromomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide
A mixture of 5-fluoro-N,N,2-trimethylbenzenesulfonamide (5.20 g, 24.0 mmol) and N-bromosuccinimide (4.69 g, 26.4 mmol) in dry CCl4 (100 mL) was refluxed overnight under nitrogen. Cooled the reaction and filtered off the succinimide salts by vacuum filtration, washing with CCl4. The concentrated filtrate was dissolved in a minimal amount of ethyl acetate and purified on an Isco column (110 g silica) running a 0 to 20% EtOAc/Hexane gradient over 40 minutes. The collected fractions were concentrated in vacuo to afford the desired material as a yellow oil in a ratio of 3.5:1 with the starting material.

reactant | 5-fluoro-N,N,2-trimethylbenzenesulfonamide | 24.0 mmol, 5.20 g | FC=1C=CC(=C(C1)S(=O)(=O)N(C)C)C | C9H12FNO2S
reactant | N-bromosuccinimide | 26.4 mmol, 4.69 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide | BrCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H11BrFNO2S
